US08981127B2
A stirred solution of 2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanone (0.33 g, 1.28 mmol, 88.4% A) in ethanol (2.5 ml) was cooled to 0° C. under nitrogen. NaBH4 (60.1 mg, 1.59 mmol) was added to the solution and the reaction mixture stirred for 2 hours. After checking by GPC that the starting product had disappeared, the mixture was diluted with demineralized water (7 ml) and dichloromethane (7 ml) and the phases separated. The organic layer was dried over anhydrous sodium sulphate, filtered and concentrated under vacuum to give crude 2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanol as a mixture of diastereoisomers 54:46 (0.30 g, 70% yield, 67.9% A).

reactant | 2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanone | 1.28 mmol, 0.33 g | ClCC(=O)C1OC2=C(C=C1)C=C(C=C2)F | C11H8ClFO2
reactant | NaBH4 | 1.59 mmol, 60.1 mg | [BH4-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 2-Chloro-1-(6-fluoro-1-benzopyran-2-yl)-ethanol | 70% yield | ClCC(O)C1OC2=C(C=C1)C=C(C=C2)F | C11H10ClFO2
